US08486970B2
To a solution of 1643 mg of 1-[6-(hydroxymethyl)pyridin-2-yl]ethanone in 25 ml of ethanol was added 0.72 ml of a 50% aqueous hydroxylamine solution, followed by stirring overnight. The reaction solution was concentrated under reduced pressure to obtain 1806 mg of 1-[6-(hydroxymethyl)pyridin-2-yl]ethanone oxime as an amorphous substance.

reactant | 1-[6-(hydroxymethyl)pyridin-2-yl]ethanone | 1643 mg | OCC1=CC=CC(=N1)C(C)=O | C8H9NO2
reactant | hydroxylamine | NO | H3NO
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-[6-(hydroxymethyl)pyridin-2-yl]ethanone oxime | 1806 mg | OCC1=CC=CC(=N1)C(C)=NO | C8H10N2O2
